US08389524B2
2-({4-[([1,3]Oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride
Racemic 2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (for a preparation see Example 16A(j)) (400 mg, 1.327 mmol) was stirred with [1,3]oxathiolo[5,4-c]pyridine-6-carbaldehyde (for a synthesis see WO2004058144 Example 61) (200 mg, 0.9 eq.) in chloroform:methanol (9:1, v:v, 15 ml) at room temperature for 30 mins; the mixture was then treated with sodium triacetoxyborohydride (844 mg, 3.0 eq.) with vigorous stirring at room temperature for 30 mins. The reaction was quenched by addition of saturated aqueous sodium hydrogen carbonate (5 ml) and the mixture was stirred at room temperature for 5 mins. The organic phase was separated, dried over anhydrous Na2SO4 and evaporated under reduced pressure. The crude product was purified by column chromatography on silica (eluting with 0-12% (2M ammonia in methanol) in DCM, appropriate fractions were combined and evaporated under reduced pressure to give the free base of the (racemic) title compound as a pale yellow foam (290 mg, 46.8%).

reactant | Racemic 2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | NC1CCN(CC1)CC1CN2C(C=CC=3N=CC(N1C23)=O)=O | C15H19N5O2
reactant | [1,3]oxathiolo[5,4-c]pyridine-6-carbaldehyde | S1COC=2C=NC(=CC21)C=O | C7H5NO2S
reactant | sodium triacetoxyborohydride | 844 mg, 3.0 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | chloroform methanol | 15 ml | C(Cl)(Cl)Cl.CO
product | 2-({4-[([1,3]Oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride | 290 mg, 46.8% | Cl.S1COC=2C=NC(=CC21)CNC2CCN(CC2)CC2CN1C(C=CC=3N=CC(N2C13)=O)=O | InChI=1S/C22H24N6O3S.ClH/c29-20-2-1-17-22-27(20)12-16(28(22)21(30)10-25-17)11-26-5-3-14(4-6-26)23-8-15-7-19-18(9-24-15)31-13-32-19;/h1-2,7,9-10,14,16,23H,3-6,8,11-13H2;1H
